### PR TITLE
[Merged by Bors] - feat : direct limit and tensor product commutes

### PR DESCRIPTION
**Pull request by jjaassoonn**
Given a family of $R$-module $G_i$'s and compatible $f : G_i \to G_j$ whenever $i \le j$ and $M$ another $R$-module, we have $\lim G_i \otimes M \cong \lim (G_i \otimes M)$

---

- [x] depends on: #8692

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean [hunk 1]
```diff
@@ -0,0 +1,141 @@
...
+  Lim_G ⊗[R] M →ₗ[R] Lim_G_tensor :=
+TensorProduct.lift <| DirectLimit.lift _ _ _ _
+  (fun i =>
+    { toFun := fun g =>
+      { toFun := fun m => DirectLimit.of R ι (fun i => G i ⊗[R] M)
+          (fun i j h => TensorProduct.map (f _ _ h) LinearMap.id) i (g ⊗ₜ m)
+        map_add' := fun _ _ => by dsimp only; rw [tmul_add, map_add]
+        map_smul' := fun r x => by
+          dsimp only
+          rw [RingHom.id_apply, ← smul_tmul, ← smul_tmul', LinearMap.map_smul] }
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean:69]: Do we not have this map somewhere else already?

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean:79]: I was having trouble finding this map (and the one above this one), if you know where this map is defined please tell me.

Comment (eric-wieser) [reply Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean:79]: You can at least write it as composition with `(g ⊗ₜ .)` (`TensorProduct.mk R _ _ g`), right?

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean]: thanks for the suggestion

File: Mathlib/Algebra/DirectLimit.lean [hunk 2]
```diff
@@ -347,6 +356,17 @@ theorem lift_unique [Nonempty ι] [IsDirected ι (· ≤ ·)] (F : DirectLimit G
   DirectLimit.induction_on x fun i x => by simp
 #align add_comm_group.direct_limit.lift_unique AddCommGroup.DirectLimit.lift_unique
 
+lemma lift_injective [Nonempty ι] [IsDirected ι (· ≤ ·)]
```
Comment (jjaassoonn) [inline Mathlib/Algebra/DirectLimit.lean:359]: While adding the injective lemma for abelian groups, I noticed that `AddCommGroup.DirectLimit.lift` is a ℤ-linear map instead of an additive group map, is this by design? `Ring.DirectLimit.lift` is a ring homomorphism though.

File: Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean (hunk 1 above)
Comment (bustercopley) [reply Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean]: `rTensor M f`

File: Mathlib/Algebra/DirectLimit.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/Algebra/DirectLimit.lean:359]: [AddCommGroup.DirectLimit](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/DirectLimit.html#AddCommGroup.DirectLimit) is defined in terms of Module.DirectLimit and [AddCommGroup.DirectLimit.lift](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/DirectLimit.html#AddCommGroup.DirectLimit.lift) in terms of Module.DirectLimit.lift, so I guess the author just kept the resulting LinearMap as it's easy to get the AddMonoidHom from it using [LinearMap.toAddMonoidHom](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/LinearMap.html#LinearMap.toAddMonoidHom).

File: Mathlib/Algebra/DirectLimit.lean [hunk 3]
```diff
@@ -167,6 +167,15 @@ theorem lift_unique [Nonempty ι] [IsDirected ι (· ≤ ·)] (F : DirectLimit G
   DirectLimit.induction_on x fun i x => by rw [lift_of]; rfl
 #align module.direct_limit.lift_unique Module.DirectLimit.lift_unique
 
+lemma lift_injective [Nonempty ι] [IsDirected ι (· ≤ ·)]
+    (injective : ∀ i, Function.Injective <| g i) :
+    Function.Injective $ lift R ι G f g Hg := by
+  simp_rw [← LinearMap.ker_eq_bot, Submodule.eq_bot_iff, LinearMap.mem_ker] at injective ⊢
```
Comment (alreadydone) [inline Mathlib/Algebra/DirectLimit.lean:173]: I'm introducing some Unique instances to remove Nonempty hypothesis [here](https://github.com/leanprover-community/mathlib4/commit/089e987cd69b1854af99c1aa2ca75593850f5aaa). Also, `injective_iff_map_eq_zero` does your three rewrites in one step.

File: Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean [hunk 4]
```diff
@@ -0,0 +1,102 @@
...
+namespace Module
+
+variable [∀ i, AddCommGroup (G i)] [∀ i, Module R (G i)]
+
+variable (f : ∀ i j, i ≤ j → G i →ₗ[R] G j)
+variable (M : Type w) [AddCommGroup M] [Module R M]
+
+/-- limᵢ (G i ⊗ M) -/
+local notation "Lim_G_tensor" =>
+  (DirectLimit (fun i => G i ⊗[R] M) <| fun i j h => TensorProduct.map (f _ _ h) LinearMap.id)
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean]: it works

File: Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean (hunk 1 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean]: thanks

File: Mathlib/Algebra/DirectLimit.lean (hunk 2 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/DirectLimit.lean:359]: I feel like `AddCommGroup.DirectLimit.lift` should be an `AddMonoidHom`

File: Mathlib/Algebra/DirectLimit.lean (hunk 3 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/DirectLimit.lean]: Thanks! Can you merge the removal of nonempty assumption. i think the nonempty assumption in`lift_unique` can also be removed.

File: Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean [hunk 5]
```diff
@@ -0,0 +1,98 @@
...
+
+-/
+noncomputable def tensorProductWithDirectLimitToDirectLimitOfTensorProduct :
+  Lim_G ⊗[R] M →ₗ[R] Lim_G_tensor :=
+TensorProduct.lift <| DirectLimit.lift _ _ _ _
+  (fun i =>
+    { toFun := (of R ι _ (fun i j h => (f _ _ h).rTensor M) i ∘ₗ TensorProduct.mk R _ _ .)
+      map_add' := by aesop
+      map_smul' := by aesop })
+  fun _ _ _ g => FunLike.ext _ _ (of_f (G := (G . ⊗[R] M)) (x := g ⊗ₜ .))
```
Comment (alreadydone) [inline Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean:70]: @eric-wieser Do we have a policy whether to allow the regular dot `.` as function argument placeholders?

File: Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean [hunk 6]
```diff
@@ -0,0 +1,98 @@
...
+variable {M}
+@[simp] lemma tensorProductWithDirectLimitToDirectLimitOfTensorProduct_apply_of_tmul
+    {i : ι} (g : G i) (m : M) :
+    (tensorProductWithDirectLimitToDirectLimitOfTensorProduct f M <|
+      (of _ _ _ _ i g : Lim_G) ⊗ₜ m) =
+    (of _ _ _ _ i (g ⊗ₜ m) : Lim_G_tensor) := by
+  rw [tensorProductWithDirectLimitToDirectLimitOfTensorProduct, lift.tmul, lift_of]
+  rfl
+
+variable (M)
```
Comment (alreadydone) [inline Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean:81]:
```suggestion
variable {M} in
@[simp] lemma tensorProductWithDirectLimitToDirectLimitOfTensorProduct_apply_of_tmul
    {i : ι} (g : G i) (m : M) :
    (tensorProductWithDirectLimitToDirectLimitOfTensorProduct f M <|
      (of _ _ _ _ i g : Lim_G) ⊗ₜ m) =
    (of _ _ _ _ i (g ⊗ₜ m) : Lim_G_tensor) := by
  rw [tensorProductWithDirectLimitToDirectLimitOfTensorProduct, lift.tmul, lift_of]
  rfl
```

File: Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean [hunk 7]
```diff
@@ -0,0 +1,98 @@
...
+    fun _ _ _ x => by refine' x.induction_on _ _ _ <;> aesop
+
+variable {M}
+@[simp] lemma directLimitOfTensorProductToTensorProductWithDirectLimit_apply_of_tmul
+    {i : ι} (g : G i) (m : M) :
+    directLimitOfTensorProductToTensorProductWithDirectLimit f M (of _ _ _ _ i (g ⊗ₜ m)) =
+    (of _ _ _ _ i g : Lim_G) ⊗ₜ m :=
+  lift_of (G := (G · ⊗[R] M)) _ _ (g ⊗ₜ m)
+
+variable (M)
```
Comment (alreadydone) [inline Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean:56]:
```suggestion
variable {M} in
@[simp] lemma directLimitOfTensorProductToTensorProductWithDirectLimit_apply_of_tmul
    {i : ι} (g : G i) (m : M) :
    directLimitOfTensorProductToTensorProductWithDirectLimit f M (of _ _ _ _ i (g ⊗ₜ m)) =
    (of _ _ _ _ i g : Lim_G) ⊗ₜ m :=
  lift_of (G := (G · ⊗[R] M)) _ _ (g ⊗ₜ m)
```

File: Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean [hunk 8]
```diff
@@ -0,0 +1,98 @@
...
+
+/--
+the map `(limᵢ G) ⊗ M → limᵢ (G i ⊗ M)` from the bilinear map `limᵢ Gᵢ → M → limᵢ (G i ⊗ M)` given
+by the family of maps `Gᵢ → M → limᵢ (G i ⊗ M)` where `gᵢ ↦ m ↦ [gᵢ ⊗ m]`
```
Comment (alreadydone) [inline Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean:60]: maybe we should use Gᵢ everywhere for consistency with gᵢ
```suggestion
the map `(limᵢ Gᵢ) ⊗ M → limᵢ (Gᵢ ⊗ M)` from the bilinear map `limᵢ Gᵢ → M → limᵢ (Gᵢ ⊗ M)` given
by the family of maps `Gᵢ → M → limᵢ (Gᵢ ⊗ M)` where `gᵢ ↦ m ↦ [gᵢ ⊗ m]`
```

File: Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean [hunk 9]
```diff
@@ -0,0 +1,98 @@
...
+
+/-- limᵢ (G i ⊗ M) -/
+local notation "Lim_G_tensor" =>
+  (DirectLimit (G · ⊗[R] M) <| fun i j h => LinearMap.rTensor M (f _ _ h))
+
+/-- lim G -/
+local notation "Lim_G" => (DirectLimit G f)
+
+/--
+the map `limᵢ (G i ⊗ M) → (limᵢ G i) ⊗ M` induced by the family of maps `G i ⊗ M → (limᵢ G i) ⊗ M`
```
Comment (alreadydone) [inline Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean:41]:
```suggestion
the map `limᵢ (Gᵢ ⊗ M) → (limᵢ Gᵢ) ⊗ M` induced by the family of maps `Gᵢ ⊗ M → (limᵢ Gᵢ) ⊗ M`
```

File: Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean:70]: I don't know if it's written anywhere, but it should certainly be a unicode .

File: Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean [hunk 10]
```diff
@@ -0,0 +1,98 @@
...
+      (of _ _ _ _ i g : Lim_G) ⊗ₜ m) =
+    (of _ _ _ _ i (g ⊗ₜ m) : Lim_G_tensor) := by
+  rw [tensorProductWithDirectLimitToDirectLimitOfTensorProduct, lift.tmul, lift_of]
+  rfl
+
+variable (M)
+
+variable [IsDirected ι (. ≤ .)] [Nonempty ι]
+
+set_option maxHeartbeats 800000 in
```
Comment (alreadydone) [inline Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean:85]: no need of this now (though the proof is still a bit slow)
```suggestion
```

File: Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean (hunk 5 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean:68]: I didn't even realize that there are two different dots xd.

File: Mathlib/Algebra/DirectLimit.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/Algebra/DirectLimit.lean]: Removed from `lift_unique` too

**Review by alreadydone — APPROVED** [review]
LGTM now

I can split the unique instances into another PR if requested.

**Comment by eric-wieser** [comment]
Splitting out all those unique instances sounds great to me

File: Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean [hunk 11]
```diff
@@ -0,0 +1,96 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jujian Zhang
+-/
+
+import Mathlib.Algebra.DirectLimit
+
+/-!
+# Tensor product and direct limits commute with each other.
+Given a family of `R`-modules `Gᵢ` with a family of compatible `R`-linear maps `fᵢⱼ : Gᵢ → Gⱼ` for
+every `i ≤ j` and another `R`-module `M`, we have `(limᵢ Gᵢ) ⊗ M` and `lim (Gᵢ ⊗ M)` are isomorphic
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean:12]: The result is presumably also true with `M` on the right, like it is for direct sums?

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean:12]: Yes, I added the other direction at the end of this file.

File: Mathlib/Logic/Unique.lean [hunk 12]
```diff
@@ -303,3 +303,12 @@ instance Unique.subtypeEq' (y : α) : Unique { x // y = x } where
   uniq := fun ⟨x, hx⟩ ↦ by subst hx; congr
 
 end Subtype
+
+/- There is `Quot.instInhabitedQuot` and `Quot.Subsingleton` but the file they are in
+  and this file don't import each other. -/
```
Comment (eric-wieser) [inline Mathlib/Logic/Unique.lean:308]: #8510 might make this easier to resolve.

**Comment by alreadydone** [comment]
> Splitting out all those unique instances sounds great to me

I guess I should wait for #8510 before making that PR ...

**Review by alreadydone — COMMENTED** [review]
Unique instances were split as #8500 (Update: now merged)

**Review by alreadydone — APPROVED** [review]
maintainer merge

File: Mathlib/Algebra/DirectLimit.lean [hunk 13]
```diff
@@ -690,6 +712,15 @@ theorem lift_unique [IsDirected ι (· ≤ ·)] (F : DirectLimit G f →+* P) (x
   · exact DirectLimit.induction_on x fun i x => by simp [lift_of]
 #align ring.direct_limit.lift_unique Ring.DirectLimit.lift_unique
 
+lemma lift_injective [Nonempty ι] [IsDirected ι (· ≤ ·)]
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectLimit.lean:715]: Is there a reason this one needs nonempty but the others don't?

**Review by eric-wieser — COMMENTED** [review]
Can we make the names here match the names we used for the direct *sum* commuting with the tensor product?

File: Mathlib/Algebra/DirectLimit.lean (hunk 13 above)
Comment (alreadydone) [reply Mathlib/Algebra/DirectLimit.lean:715]: The free module / abelian group on zero generators is the zero module / abelian group, so any map out of them are injective.
However the free commutative ring on zero generators is Z (in general it's MvPolynomial over Z), which maps to quotients Z/nZ non-injectively (when n is not 1).

**Comment by jjaassoonn** [comment]
> Can we make the names here match the names we used for the direct _sum_ commuting with the tensor product?

I have tried to match the namings with `TensorProduct.directSum`, can you check the naming is ok please

File: Mathlib/Algebra/DirectLimit.lean [hunk 14]
```diff
@@ -183,6 +184,43 @@ lemma lift_injective [IsDirected ι (· ≤ ·)]
...
   rw [injective _ g hz, _root_.map_zero]
 
+variable (f) in
+/--
+For two family of modules `G` and `G'` indexed by the same set with direct system `f` and `f'`
+respectively, if there is a compatible family of linear-equivalence `eᵢ : Gᵢ ≅ Gᵢ'`, i.e. for
+`i ≤ j`, we have `eᵢ ∘ fᵢⱼ = fᵢⱼ' ∘ eⱼ`, there is a linear equivalence `lim G ≅ lim G'`.
+-/
+def congr [IsDirected ι (· ≤ ·)] (equiv : (i : ι) → G i ≃ₗ[R] G' i)
+    (compatible_equiv : ∀ i j h x, equiv j (f i j h x) = f' _ _ h (equiv _ x)) :
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectLimit.lean:194]: I recommend writing this with composition so that the caller can use `ext`.

File: Mathlib/Algebra/DirectLimit.lean [hunk 15]
```diff
@@ -172,6 +173,54 @@ theorem lift_unique [IsDirected ι (· ≤ ·)] (F : DirectLimit G f →ₗ[R] P
...
+    (FunLike.ext _ _ fun x ↦ (isEmpty_or_nonempty ι).elim (fun _ ↦ Subsingleton.elim _ _)
+      fun _ ↦ DirectLimit.induction_on x fun _ _ ↦ by simp [lift_of])
+
+@[simp] lemma congr_apply_of [IsDirected ι (· ≤ ·)]
+    (equiv : (i : ι) → G i ≃ₗ[R] G' i)
+    (compatible_equiv : ∀ i j h x, equiv j (f i j h x) = f' _ _ h (equiv _ x))
+    {i : ι} (g : G i) :
+    congr f f' equiv compatible_equiv (of _ _ _ _ i g : DirectLimit G f) =
+    of R ι G' f' i (equiv i g) := by
+  simpa only [congr, LinearEquiv.ofLinear_apply] using lift_of _ _ _
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectLimit.lean:214]: Does this work as follows?
```suggestion
    of R ι G' f' i (equiv i g) :=
  lift_of _ _ _
```

File: Mathlib/Algebra/DirectLimit.lean (hunk 14 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/DirectLimit.lean:194]: Which version do you think is better`∀ i j h, equiv j ∘(f i j h) = (f' _ _ h) ∘ (equiv _)` or `∀ i j h, equiv j ∘ₗ (f i j h) = (f' _ _ h) ∘ₗ  (equiv _)`

Comment (eric-wieser) [reply Mathlib/Algebra/DirectLimit.lean:194]: The second one is much better.

Comment (eric-wieser) [reply Mathlib/Algebra/DirectLimit.lean:194]: (though you should write `∀ i j h, equiv j ∘ₗ f i j h = f' _ _ h ∘ₗ equiv _` without the parens)

Comment (jjaassoonn) [reply Mathlib/Algebra/DirectLimit.lean:194]: with linear map comp, the problem is we need to write `(equiv j).toLinearMap`

File: Mathlib/Algebra/DirectLimit.lean (hunk 15 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/DirectLimit.lean:214]: Lean want me to fill the middle underscore in`lift_of _ _ _` which is a proof inside the construction of `congr`

File: Mathlib/Algebra/DirectLimit.lean (hunk 14 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/DirectLimit.lean]: Understood! Thanks

Comment (jjaassoonn) [reply Mathlib/Algebra/DirectLimit.lean]: Let me add the version for `AddCommGroups/Rings` etc in this file

File: Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean [hunk 16]
```diff
@@ -0,0 +1,128 @@
...
+    (DirectLimit.lift _ _ _ _
+      (fun i ↦ of R ι _ _ i ∘ₗ (TensorProduct.comm R M (G i)).toLinearMap)
+      fun i j h x ↦ x.induction_on (by aesop) (fun m g ↦
+        show of R ι (G · ⊗[R] M) _ j ((f i j h).rTensor M (g ⊗ₜ m)) = _ from of_f) (by aesop))
+    ((isEmpty_or_nonempty ι).elim (fun _ ↦ by ext; apply Subsingleton.elim)
+      fun inst_ ↦ FunLike.ext _ _ fun x ↦ x.induction_on
+        fun i g ↦ g.induction_on (by aesop) (fun g m ↦ by simp [lift_of]) <| by aesop)
+    ((isEmpty_or_nonempty ι).elim (fun _ ↦ by ext; apply Subsingleton.elim)
+      fun inst_ ↦ FunLike.ext _ _ fun x ↦ x.induction_on
+        fun i g ↦ g.induction_on (by aesop) (fun g m ↦ by simp [lift_of]) <| by aesop) ≪≫ₗ
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean]: done

File: Mathlib/Algebra/DirectLimit.lean (hunk 15 above)
Comment (eric-wieser) [reply Mathlib/Algebra/DirectLimit.lean]: Fair

File: Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean [hunk 17]
```diff
@@ -97,32 +97,16 @@ noncomputable def directLimitLeft :
...
-    ((isEmpty_or_nonempty ι).elim (fun _ ↦ by ext; apply Subsingleton.elim)
-      fun inst_ ↦ FunLike.ext _ _ fun x ↦ x.induction_on
-        fun i g ↦ g.induction_on (by aesop) (fun g m ↦ by simp [lift_of]) <| by aesop)
-    ((isEmpty_or_nonempty ι).elim (fun _ ↦ by ext; apply Subsingleton.elim)
-      fun inst_ ↦ FunLike.ext _ _ fun x ↦ x.induction_on
-        fun i g ↦ g.induction_on (by aesop) (fun g m ↦ by simp [lift_of]) <| by aesop) ≪≫ₗ
-  directLimit f M ≪≫ₗ TensorProduct.comm _ _ _
+  TensorProduct.comm _ _ _ ≪≫ₗ directLimitLeft f M ≪≫ₗ
+  Module.DirectLimit.congr _ _ (fun i ↦ TensorProduct.comm _ _ _) fun i j h ↦ FunLike.ext _ _
+    fun x ↦ by refine x.induction_on ?_ ?_ ?_ <;> aesop
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean:102]: You shouldn't be usign `FunLike.ext` here any more; the `ext` tactic ought to have a better one available for you that eliminates the `induction_on`.

Comment (eric-wieser) [reply Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean:102]: (I think it's `TensorProduct.ext` or `TensorProduct.ext'`)

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean:102]: `show_term ext x` tells me that Lean find `refine LinearMap.ext fun x ↦ ?_ x`, we really want it to find `TensorProduct.ext` right?

File: Mathlib/Algebra/DirectLimit.lean [hunk 18]
```diff
@@ -172,6 +173,58 @@ theorem lift_unique [IsDirected ι (· ≤ ·)] (F : DirectLimit G f →ₗ[R] P
...
+    of R ι G' f' i (equiv i g) := by
+  simpa [congr] using lift_of _ _ _
+
+@[simp] lemma congr_symm_apply_of [IsDirected ι (· ≤ ·)]
+    (equiv : (i : ι) → G i ≃ₗ[R] G' i)
+    (compatible_equiv : ∀ i j h, (equiv j) ∘ₗ f i j h = f' i j h ∘ₗ equiv i)
+    {i : ι} (g : G' i) :
+    (congr f f' equiv compatible_equiv).symm (of _ _ _ _ i g) =
+    of R ι G f i ((equiv i).symm g) := by
+  simpa [congr] using lift_of _ _ _
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectLimit.lean:226]: These lemmas seem to be missing for the `Ring` and `AddCommGroup` cases.

Comment (jjaassoonn) [reply Mathlib/Algebra/DirectLimit.lean]: indeed, they are added now. Thanks!

File: Mathlib/Algebra/DirectLimit.lean [hunk 19]
```diff
@@ -172,6 +173,60 @@ theorem lift_unique [IsDirected ι (· ≤ ·)] (F : DirectLimit G f →ₗ[R] P
...
+    (lift _ _ _ _ (fun i ↦ of _ _ _ _ _ ∘ₗ (equiv i).toLinearMap) fun i j h g ↦ by
+      have eq1 := FunLike.congr_fun (compatible_equiv i j h) g
+      simp only [LinearMap.coe_comp, LinearEquiv.coe_coe, Function.comp_apply] at eq1 ⊢
+      rw [eq1, of_f])
+    (lift _ _ _ _ (fun i ↦ of _ _ _ _ _ ∘ₗ (equiv i).symm.toLinearMap) fun i j h g ↦ by
+      have eq1 := FunLike.congr_arg (equiv _).symm <| FunLike.congr_fun (compatible_equiv i j h) <|
+        (equiv i).symm g
+      simp only [LinearMap.coe_comp, LinearEquiv.coe_coe, Function.comp_apply,
+        LinearEquiv.symm_apply_apply, LinearEquiv.apply_symm_apply] at eq1 ⊢
+      rw [← eq1, of_f])
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectLimit.lean:206]: At risk of derailing this PR further; each of these branches looks like a `DirectLimit.map`, which would at least make this declaration shorter, even if it makes the PR as a whole longer.

File: Mathlib/Algebra/DirectLimit.lean [hunk 20]
```diff
@@ -356,13 +411,70 @@ theorem lift_unique [IsDirected ι (· ≤ ·)] (F : DirectLimit G f →+ P) (x)
...
+variable {G'} (f) in
+/--
+For two family of abelian groups `G` and `G'` indexed by the same set with direct system `f` and
+`f'` respectively, if there is a compatible family of group-equivalence `eᵢ : Gᵢ ≅ Gᵢ'`, i.e. for
+`i ≤ j`, we have `eᵢ ∘ fᵢⱼ = fᵢⱼ' ∘ eⱼ`, there is a group equivalence `lim G ≅ lim G'`.
+-/
+def congr [IsDirected ι (· ≤ ·)] (equiv : (i : ι) → G i ≃+ G' i)
+    (compatible_equiv : ∀ i j h,
+      (equiv j).toAddMonoidHom.comp (f i j h) = (f' i j h).comp (equiv i).toAddMonoidHom) :
+    (DirectLimit G f) ≃+ DirectLimit G' f' where
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectLimit.lean:434]: If you use `AddMonoidHom.toAddEquiv` here you can follow the same strategy you used for the linear map version.

File: Mathlib/Algebra/DirectLimit.lean [hunk 21]
```diff
@@ -690,6 +802,60 @@ theorem lift_unique [IsDirected ι (· ≤ ·)] (F : DirectLimit G f →+* P) (x
...
+/--
+For two family of abelian groups `G` and `G'` indexed by the same set with direct system `f` and
+`f'` respectively, if there is a compatible family of group-equivalence `eᵢ : Gᵢ ≅ Gᵢ'`, i.e. for
+`i ≤ j`, we have `eᵢ ∘ fᵢⱼ = fᵢⱼ' ∘ eⱼ`, there is a group equivalence `lim G ≅ lim G'`.
+-/
+def congr [IsDirected ι (· ≤ ·)] [Nonempty ι] (equiv : (i : ι) → G i ≃+* G' i)
+    (compatible_equiv : ∀ i j h,
+      (equiv j).toRingHom.comp (f i j h) = (f' i j h).comp (equiv i).toRingHom) :
+    (DirectLimit G fun _ _ h ↦ f _ _ h) ≃+* DirectLimit G' fun _ _ h ↦ f' _ _ h where
+  __ := lift G _ _ (fun i ↦ (of G' _ i).comp (equiv i).toRingHom)
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectLimit.lean:826]: This one could use `RingEquiv.ofHomInv`

File: Mathlib/Algebra/DirectLimit.lean [hunk 22]
```diff
@@ -172,6 +173,60 @@ theorem lift_unique [IsDirected ι (· ≤ ·)] (F : DirectLimit G f →ₗ[R] P
...
+  rw [injective _ g hz, _root_.map_zero]
+
+variable (f) in
+/--
+For two family of modules `G` and `G'` indexed by the same set with direct system `f` and `f'`
+respectively, if there is a compatible family of linear-equivalence `eᵢ : Gᵢ ≅ Gᵢ'`, i.e. for
+`i ≤ j`, we have `eᵢ ∘ fᵢⱼ = fᵢⱼ' ∘ eⱼ`, there is a linear equivalence `lim G ≅ lim G'`.
+-/
+def congr [IsDirected ι (· ≤ ·)] (equiv : (i : ι) → G i ≃ₗ[R] G' i)
+    (compatible_equiv : ∀ i j h, (equiv j) ∘ₗ f i j h = f' i j h ∘ₗ equiv i) :
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Algebra/DirectLimit.lean]: changed in  #8692

File: Mathlib/Algebra/DirectLimit.lean (hunk 21 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/DirectLimit.lean:832]: done in #8692

File: Mathlib/Algebra/DirectLimit.lean
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Algebra/DirectLimit.lean:1]: indeed! Thanks

**Review by alreadydone — APPROVED** [review]
Thanks! seems to be forgotten
maintainer merge

File: Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean [hunk 23]
```diff
@@ -0,0 +1,112 @@
...
+    M ⊗[R] DirectLimit G f ≃ₗ[R] DirectLimit (M ⊗[R] G ·) (M ◁ f) :=
+  TensorProduct.comm _ _ _ ≪≫ₗ directLimitLeft f M ≪≫ₗ
+    Module.DirectLimit.congr (fun i ↦ TensorProduct.comm _ _ _)
+      (fun i j h ↦ TensorProduct.ext <| FunLike.ext _ _ <| by aesop)
+
+@[simp] lemma directLimitRight_tmul_of {i : ι} (m : M) (g : G i):
+    directLimitRight f M (m ⊗ₜ of _ _ _ _ _ g) = of _ _ _ _ i (m ⊗ₜ g) := by
+  simp [directLimitRight, congr_apply_of]
+
+@[simp] lemma directLimitRight_syymm_of_tmul {i : ι} (m : M) (g : G i) :
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/DirectLimitAndTensorProduct.lean:108]:
```suggestion
@[simp] lemma directLimitRight_symm_of_tmul {i : ι} (m : M) (g : G i) :
```

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
